US04348335
An aqueous solution of the disodium salt of 4,4'-dinitro-stilbene-2,2'-disulphonic acid is treated with an equivalent amount, relative to the nitro group to be reduced, of sodium bisulphide solution at 75°-85° C., ammonia being added. The course of the reaction can be followed by known analytical methods. When the partial reduction has ended, the 4-nitro-4'-amino-stilbene-2,2'-disulphonic acid formed is isolated as the disodium salt or as an inner salt. The amount of 4,4'-diamino-stilbene-2,2'-disulphonic acid contained as an impurity is less than 1% and the residual content of 4,4'-dinitro-stilbene-2,2'-disulphonic acid is less than 0.1%. 4-Nitro-4'-aminostilbene-2,2'-disulphonic acid is a known intermediate product for dyestuffs.

reactant | disodium | [Na][Na] | 2Na
reactant | 4,4'-dinitro-stilbene-2,2'-disulphonic acid | [N+](=O)([O-])C=1C=C(C(=CC1)C=CC=1C(=CC(=CC1)[N+](=O)[O-])S(=O)(=O)O)S(=O)(=O)O | C14H10N2O10S2
reactant | sodium | [Na] | Na
reactant | ammonia | N | H3N
product | 4-nitro-4'-amino-stilbene-2,2'-disulphonic acid | [N+](=O)([O-])C=1C=C(C(=CC1)C=CC=1C(=CC(=CC1)N)S(=O)(=O)O)S(=O)(=O)O | C14H12N2O8S2
